US07713963B2
4-FLUORO-N-(4-METHYL-INDAN-2-YL)-BENZAMIDE
370 mg (2.52 mmol) 2-amino-4-methylindane and 257 mg (2.52 mmol) triethylamine were dissolved in 5 ml dioxane, 400 mg (2.52 mmol) 4-fluorobenzoylchloride were added, and the mixture was stirred for 2 h at room temperature (RT).

reactant | 2-amino-4-methylindane | 2.52 mmol, 370 mg | NC1CC2=CC=CC(=C2C1)C | C10H13N
reactant | triethylamine | 2.52 mmol, 257 mg | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoylchloride | 2.52 mmol, 400 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-FLUORO-N-(4-METHYL-INDAN-2-YL)-BENZAMIDE | FC1=CC=C(C(=O)NC2CC3=CC=CC(=C3C2)C)C=C1 | C17H16FNO
